US04758578
3-(2-Methylphenyl)-1,2,4-thiadiazole-5-sulfinamide hemihydrate
A solution of 3.86 g of 85% m-chloroperoxybenzoic acid (MCPBA) in 100 ml of 1,2-dimethoxyethane (DME) was added to a solution of 4 g of 3-(2-methylphenyl)-1,2,4-thiadiazole-5-sulfenamide in 150 ml of DME at -70° C. over an hour. The resulting solution was stirred for 2 hours at -70° and thereafter at room temperature overnight. Concentration gave a solid which was stirred with 100 ml of sodium bicarbonate solution for 2 hours, collected, washed with water and dried. Recrystallization from cyclohexane/toluene (2:1) gave 2.2 g of solid, m.p. 110°-112°.

reactant | m-chloroperoxybenzoic acid | 3.86 g | ClC=1C=C(C(=O)OO)C=CC1 | C7H5ClO3
reactant | 3-(2-methylphenyl)-1,2,4-thiadiazole-5-sulfenamide | 4 g | CC1=C(C=CC=C1)C1=NSC(=N1)SN | C9H9N3S2
reactant | sodium bicarbonate | 100 ml | C([O-])(O)=O.[Na+]
solvent | 1,2-dimethoxyethane | 100 ml | COCCOC | C4H10O2
solvent | DME | 150 ml | COCCOC | C4H10O2
product | 3-(2-Methylphenyl)-1,2,4-thiadiazole-5-sulfinamide hemihydrate | 2.2 g | O.CC1=C(C=CC=C1)C1=NSC(=N1)S(=O)N.CC1=C(C=CC=C1)C1=NSC(=N1)S(=O)N | InChI=1S/2C9H9N3OS2.H2O/c2*1-6-4-2-3-5-7(6)8-11-9(14-12-8)15(10)13;/h2*2-5H,10H2,1H3;1H2
